US05614520
5.0 g of Ethyl 2-(4-hydroxy-3-nitrophenyl)-4-methyl-5-thiazolecarboxylate was dissolved in 120 ml of ethanol and 60 ml of ethyl acetate, and 2 ml of concentrated hydrochloride and 500 mg of a 10% palladium/carbon was added thereto, and the mixture was stirred under a hydrogen atmosphere for 24 hours. After the completion of the reaction, methanol and water were added thereto, the mixture was filtered, and the filtrate was concentrated. The resulting crystal was suspended in 25 ml of 2N hydrochloric acid and 25 ml of acetone, and a solution of 1.2 g of sodium nitrite in 8 ml of water was gradually added thereto with ice cooling. Separately, 2.2 g of cuprous chloride was suspended in 15 ml of 2N hydrochloric acid and the diazonium salt solution was gradually added thereto with ice cooling. After the completion of the dropwise addition, the reaction mixture was heated to 60° C., and one hour after the heating, 100 ml of water was added thereto. The precipitated crystal was collected by filtration. This product was purified by silica gel chromatography to give 4.4 g of ethyl 2-(3-chloro-4-hydroxyphenyl)-4-methyl-5-thiazolecarboxylate (yield: 91%).

reactant | Ethyl 2-(4-hydroxy-3-nitrophenyl)-4-methyl-5-thiazolecarboxylate | 5.0 g | OC1=C(C=C(C=C1)C=1SC(=C(N1)C)C(=O)OCC)[N+](=O)[O-] | C13H12N2O5S
reactant | hydrochloride | 2 ml | Cl | ClH
reactant | methanol | CO | CH4O
reactant | water | O | H2O
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium/carbon | [Pd] | Pd
product | ethyl 2-(3-chloro-4-hydroxyphenyl)-4-methyl-5-thiazolecarboxylate | 4.4 g, yield: 91% | ClC=1C=C(C=CC1O)C=1SC(=C(N1)C)C(=O)OCC | C13H12ClNO3S
